US04851526
1-[2-(4-Chlorophenyl)ethyl]-4-piperidinemethanol
In a manner similar to Preparation 5, react 1-[2-(4-chlorophenyl)acetyl]-4-(hydroxymethyl)piperidine with lithium aluminum hydride to obtain the title compound.

reactant | 1-[2-(4-chlorophenyl)acetyl]-4-(hydroxymethyl)piperidine | ClC1=CC=C(C=C1)CC(=O)N1CCC(CC1)CO | C14H18ClNO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-[2-(4-Chlorophenyl)ethyl]-4-piperidinemethanol | ClC1=CC=C(C=C1)CCN1CCC(CC1)CO | C14H20ClNO
